* c:\users\shanthipriya\esim-workspace\74ls573\74ls573.cir

.include ls373.sub
* u2  1d 2d 3d 4d 5d 6d 7d 8d net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ adc_bridge_8
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ 1q 2q 3q 4q 5q 6q 7q 8q dac_bridge_8
* u1  oe le net-_u1-pad3_ net-_u1-pad4_ adc_bridge_2
v3  1d gnd pulse(0 5 0 1u 1u 4m 8m)
v4  2d gnd pulse(0 5 0m 1u 1u 4m 8m)
v5  3d gnd pulse(0 5 0 1u 1u 4m 8m)
v6  4d gnd pulse(0 5 0 1u 1u 4m 8m)
v7  5d gnd pulse(0 5 0 1u 1u 4m 8m)
v8  6d gnd pulse(0 5 0 1u 1u 4m 8m)
v9  7d gnd pulse(0 5 0 1u 1u 4m 8m)
v10  8d gnd pulse(0 5 0 1u 1u 4m 8m)
* u4  1q plot_v1
* u5  2q plot_v1
* u6  3q plot_v1
* u7  4q plot_v1
* u8  5q plot_v1
* u9  6q plot_v1
* u10  7q plot_v1
* u11  8q plot_v1
x1 net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ls373
v1 oe gnd  dc 0
v2 le gnd  dc 5
a1 [1d 2d 3d 4d 5d 6d 7d 8d ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] u2
a2 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [1q 2q 3q 4q 5q 6q 7q 8q ] u3
a3 [oe le ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-06 100e-03 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(1q)
plot v(2q)
plot v(3q)
plot v(4q)
plot v(5q)
plot v(6q)
plot v(7q)
plot v(8q)
.endc
.end
